US04882323
2,3,4,5-Tetrahydro-3-Phenyl-1H[1,2,5]Triazepino[1,2-a]-[1,2,4]Benzotriazine-7(8H)-Thione (XIIa) (Batch 1)
Hexahydro-1-(2-nitrophenyl)-5-phenyl-1H-1,2,5-triazepine (22.4 g) was hydrogenated in 1,2-dimethoxyethane (800 ml) as in Example 11 and the volume reduced to 250 ml. 1,1'-Thiocarbonyldiimidazole (27 g) was added and the mixture, protected from moisture, was heated under reflux on a steam bath overnight. The solution was evaporated to dryness. The residue was dissolved in toluene and applied to a column (63×8.0 cm) of dry column grade neutral alumina prepacked in toluene. Elution with toluene (several liters) removed a faster moving yellow component from the column. The eluting solvent was changed to toluene-chloroform (4:1, 2 l) and then to chloroform. Monitoring of fractions was by t.l.c. on Alox-25 uv254 plates (Brinkmann) with chloroform as developer and on silica gel GF (Analtech) plates with chloroform as developer. A slightly faster moving minor purple component was eluted in the earlier fractions containing the major component. In later fractions a slower moving yellow component contaminated the major component. The first fractions (having none of the slower yellow minor component) were evaporated to smaller volume. Coevaporation with toluene caused crystallization. Addition of heptane completed the process; wt. 12.46 g (crop 1), mp=206°-208°. The later yellow fractions similarly gave 5.33 g (crop 2), mp=203°-208° of crude titled product. Recrystallization of crop 2 (from chloroform-toluene-heptane) gave material which was combined with crop 1. This material was dissolved in chloroform and the solution was decolorized. Evaporation to smaller volume followed by coevaporation with toluene and addition of heptane gave 17.6 g (76%) of crude titled product, mp=205°-209°. Recrystallization from the same solvent system gave titled product, mp=205°-208°.

reactant | Hexahydro-1-(2-nitrophenyl)-5-phenyl-1H-1,2,5-triazepine | 22.4 g | [N+](=O)([O-])C1=C(C=CC=C1)N1NCCN(CC1)C1=CC=CC=C1 | C16H18N4O2
reactant | 1,1'-Thiocarbonyldiimidazole | 27 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | 1,2-dimethoxyethane | 800 ml | COCCOC | C4H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,3,4,5-Tetrahydro-3-Phenyl-1H[1,2,5]Triazepino[1,2-a]-[1,2,4]Benzotriazine-7(8H)-Thione | C1(=CC=CC=C1)N1CCN2N(C3=C(NC2=S)C=CC=C3)CC1 | C17H18N4S
